US08476298B2
To a solution of 1-[4-(6,7-dimethoxy-quinolin-4-yloxy)-phenylcarbamoyl]-cyclopropanecarboxylic acid (74.3 mg, 0.182 mmol), 4-Fluoro benzylamine (25 μL, 0.219 mmol), DIEA (90.0 μL, 0.544 mmol) in DMA (1.0 mL) was added HATU (203 mg, 0.534 mmol). The resulting solution was stirred at room temperature for 1 hour before adding dropwise to water (10 mL) with stirring. The slurry was sonicated, filtered and the solids were washed with 1 N NaOH followed by water. After air drying, the solids were further purified by prep HPLC, affording ‘N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-[(4-fluorophenyl)methyl]cyclopropane-1,1-dicarboxamide (33 mg, 35% yield, 98% pure) as a white solid. 1H NMR (DMSO, d6): 10.82 (s, 1H), 8.80 (d, 1H), 8.50 (t, 1H), 7.83 (d, 2H), 7.74 (s, 1H), 7.56 (s, 1H), 7.30-7.38 (m, 4H), 7.15 (t, 2H), 6.80 (d, 1H), 4.32 (d, 2H), 4.04 (s, 3H), 4.03 (s, 3H), 1.42 (s, 4H).

reactant | 1-[4-(6,7-dimethoxy-quinolin-4-yloxy)-phenylcarbamoyl]-cyclopropanecarboxylic acid | 0.182 mmol, 74.3 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C22H20N2O6
reactant | 4-Fluoro benzylamine | 0.219 mmol, 25 μL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | DIEA | 0.544 mmol, 90.0 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.534 mmol, 203 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMA | 1.0 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 10 mL | O | H2O
product | N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-[(4-fluorophenyl)methyl]cyclopropane-1,1-dicarboxamide | 33 mg, 35% yield | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NCC1=CC=C(C=C1)F | C29H26FN3O5
